US06136823
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-7-(ethoxycarbonylmethylamino)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg), glycine ethyl ester hydrochloride (135 mg) and triethylamine (450 mg) were added to pyridine (1,000 mg), and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted 4 times repeatedly. Ethanol (1 ml) and distilled water (1 ml) were added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain an about 1:1 mixture (106 mg) of the title compound and 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, which is the raw material, as a colorless powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | glycine ethyl ester hydrochloride | 135 mg | Cl.C(C)OC(CN)=O
reactant | triethylamine | 450 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 1,000 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-7-(ethoxycarbonylmethylamino)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 106 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCC(=O)OCC)F)=O)C(=O)O)F)F | C19H14ClF3N4O5
